US03998829
21-Diethylaminoacetoxymethyl-3α-hydroxy-5α -pregnane-11,20-dione
3α-hydroxy-21-iodo-acetoxymethyl-5α-pregnane-11,20-dione (235 mg) in dry dichloromethane (25 ml) was treated with diethylamine (1 ml) in similar manner to that described in Example 35 to give title compound (89 mg)[αD ] + 73° (c 0.42).

reactant | 3α-hydroxy-21-iodo-acetoxymethyl-5α-pregnane-11,20-dione | 235 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C(I)COC(C)=O)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C24H35IO5
reactant | diethylamine | 1 ml | C(C)NCC | C4H11N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 21-Diethylaminoacetoxymethyl-3α-hydroxy-5α -pregnane-11,20-dione | 89 mg | C(C)N(CC)CC(=O)OCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C28H45NO5
